US06313113B1
5-[4-[(2,2-Diethoxy)ethoxy]phenyl methylene]thiazolidin-2,4-dione
A mixture of 4-[(2,2-diethoxy]ethoxy]benzaldehyde (10.6 g, 44.53 mmol), thiazolidin-2,4-dione (5.21 g, 44.53 mmol), benzoic acid (0.70 g, 5.78 mmol) and piperidine (0.64 mL, 6.7 mmol) in toluene (150 mL) was refluxed for 2 h with continuous removal of water. The reaction mixture was cooled to room temperature and diluted with EtOAc (150 ml). The mixture was washed with water, brine, dried over anhydrous Na2SO4 and concentrated. The crude compound was purified by column chromatography using EtOAc:pet. ether (1:2) as eluent to afford the title compound (12.54 g, 70%) as a brown coloured liquid.

reactant | 4-[(2,2-diethoxy]ethoxy]benzaldehyde | 44.53 mmol, 10.6 g | C(C)OC(COC1=CC=C(C=O)C=C1)OCC | C13H18O4
reactant | thiazolidin-2,4-dione | 44.53 mmol, 5.21 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | benzoic acid | 5.78 mmol, 0.70 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | piperidine | 6.7 mmol, 0.64 mL | N1CCCCC1 | C5H11N
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-[4-[(2,2-Diethoxy)ethoxy]phenyl methylene]thiazolidin-2,4-dione | 12.54 g, 70% | C(C)OC(COC1=CC=C(C=C1)C=C1C(NC(S1)=O)=O)OCC | C16H19NO5S
